US05496843
5) 7-Chloro-3-carboxymethyl-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid
A solution of methyl 1-benzenesulfonyl-7-chloro-3-carboxymethyl-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylate (143 mg, 0.328 mmol) in a mixture of THF (2 mL), MeOH (2 mL), and 5N NaOH (2 mL) was stirred for 19 h at room temperature, acidified to pH 3 with 5% KHSO4, and extracted with ethyl acetate. The organic layer was washed successively with water and brine, dried over magnesium sulfate, and concentrated. The residue was rinsed with dichloroethane and dried in vacuo to give 56 mg of the title compound (58%): 1H NMR (DMSO-d6) δ12.58 (bs, 1H), 11.45 (s, 1H), 7.14 (d, 1H, J=1.0 Hz), 6.83 (d, 1H, J=1.0 Hz), 3.76 (m, 1H), 2.93 (mt, 1H, J=12.7 Hz), 2.78 (md, 1H, J=15.8 Hz), 2.64 (dd, 1H, J=15.3, 3.0 Hz), 2.35 (dd, 1H, J=15.5, 11.5 Hz), 2.08 (md, 1H, J=12.2 Hz), 1.87 (m, 1H).

reactant | methyl 1-benzenesulfonyl-7-chloro-3-carboxymethyl-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylate | 0.328 mmol, 143 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=C2C=3C(=CC(=CC13)Cl)CCC2CC(=O)O)C(=O)OC | C21H18ClNO6S
reactant | MeOH | 2 mL | CO | CH4O
reactant | NaOH | 5N, 2 mL | [OH-].[Na+]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 7-Chloro-3-carboxymethyl-1,3,4,5-tetrahydrobenz[cd]indole-2-carboxylic acid | 56 mg, 58% | ClC=1C=C2C=3C(=C(NC3C1)C(=O)O)C(CC2)CC(=O)O | C14H12ClNO4
